US06468607B1
To 25.0 g of 6-(trans-4-propylcyclohexyl)-2-naphthol were added 100 ml of dichloromethane and 30 g of trifluoromethanesulfonic anhydride. The reaction mixture was then cooled to a temperature of 5° C. To the reaction mixture was then added a solution of 11.0 g of pyridine in 40 ml of dichloromethane at a rate such that the resulting temperature didn't exceed 20° C. After the termination of dropwise addition, the reaction mixture was returned to room temperature with stirring. To the reaction mixture was then added 150 ml of water. The resulting organic phase was washed with water and saturated brine, and then dried over anhydrous sodium sulfate. The solvent was then distilled off. The residue was then purified through silica gel column chromatography (solvent: dichloromethane) to obtain 36.7 g of 6-(trans-4-propylcyclohexyl)naphthalene-2-yl trifluoromethane sulfonate.

reactant | 6-(trans-4-propylcyclohexyl)-2-naphthol | 25.0 g | C(CC)[C@@H]1CC[C@H](CC1)C=1C=C2C=CC(=CC2=CC1)O | C19H24O
reactant | trifluoromethanesulfonic anhydride | 30 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 11.0 g | N1=CC=CC=C1 | C5H5N
reactant | water | 150 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-(trans-4-propylcyclohexyl)naphthalene-2-yl trifluoromethane sulfonate | 36.7 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)[C@@H]1CC[C@H](CC1)CCC)(F)F | C20H23F3O3S
